US05910498
7-chloro-6-fluoro-1-(4-fluoro-3-nitrophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid
To 10 ml of conc. sulfuric acid was added 1.5 g of 7-chloro-6-fluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid. Potassium nitrate (1.4 g) was added in portions to the solution, which was heated and stirred at 80° C. for 2 hours. The reaction solution was allowed to cool down, poured into ice water, and stirred overnight. The precipitated solid was collected by filtration and successively washed with water, ethanol, and diethyl ether to give 1.1 grams of the title compound.

reactant | 7-chloro-6-fluoro-1-(4-fluorophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1.5 g | ClC1=C(C=C2C(C(=CN(C2=N1)C1=CC=C(C=C1)F)C(=O)O)=O)F | C15H7ClF2N2O3
reactant | Potassium nitrate | 1.4 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 7-chloro-6-fluoro-1-(4-fluoro-3-nitrophenyl)-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid | 1.1 grams | ClC1=C(C=C2C(C(=CN(C2=N1)C1=CC(=C(C=C1)F)[N+](=O)[O-])C(=O)O)=O)F | C15H6ClF2N3O5
